US07696213B2
2-Amino-8-cyclobutyl-4-methyl-6-(2-(trimethylsilyl)ethynyl)pyrido[2,3-d]pyrimidin-7(8H)-one
A flask was charged with Pd(PPh3)2Cl2 (84.2 mg, 0.120 mmol) and copper iodide (34.3 mg, 0.180 mmol). To this were added 1,4-dioxane (12 mL) and diisopropylethylamine (0.84 mL, 4.8 mmol) via syringe. 2-Amino-6-bromo-8-cyclobutyl-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (371 mg, 1.20 mmol) was introduced, and the resulting yellow solution was carefully sparged with nitrogen for 10 min. TMS-acetylene (0.50 mL, 3.6 mmol) was then added via syringe, and the resulting black solution was stirred at 70° C. for 1 h. Solvent was removed under reduced pressure. The crude solid was purified by flash chromatography on silica gel eluting with CHCl3 then 3% MeOH in CHCl3 to afford the title product (322 mg).

reactant | diisopropylethylamine | 4.8 mmol, 0.84 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-Amino-6-bromo-8-cyclobutyl-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | 1.20 mmol, 371 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)Br)=O)C2CCC2)C | C12H13BrN4O
reactant | TMS-acetylene | 3.6 mmol, 0.50 mL | [Si](C)(C)(C)C#C | C5H10Si
catalyst | Pd(PPh3)2Cl2 | 0.120 mmol, 84.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 0.180 mmol, 34.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-8-cyclobutyl-4-methyl-6-(2-(trimethylsilyl)ethynyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 322 mg | NC=1N=C(C2=C(N1)N(C(C(=C2)C#C[Si](C)(C)C)=O)C2CCC2)C | C17H22N4OSi
